US09359340B2
To a solution of the methyl 2-oxocyclopentanecarboxylate (40 g, 281 mmol) and thiourea (21 g, 281 mmol) in ethanol (200 ml) was added KOH (20 g, 356 mmol) in water (120 ml). The mixture was refluxed for 12 hour. The solvent was removed and the residue was quenched with concentrated HCl (25 mL). The precipitate was filtered, washed with water and dried to afford the 2-mercapto-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-ol (12.5 g, 26%). MS (APCI+) [M+H] +168.

reactant | methyl 2-oxocyclopentanecarboxylate | 281 mmol, 40 g | O=C1C(CCC1)C(=O)OC | C7H10O3
reactant | thiourea | 281 mmol, 21 g | NC(=S)N | CH4N2S
reactant | KOH | 356 mmol, 20 g | [OH-].[K+]
solvent | ethanol | 200 ml | C(C)O | C2H6O
solvent | water | 120 ml | O | H2O
product | 2-mercapto-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-ol | 12.5 g, 26% | SC=1N=C(C2=C(N1)CCC2)O | C7H8N2OS
